US04077965
Sodium bicarbonate (0.84 g.) and 5-hydroxymethyl-1,3,4-thiadiazole-2-thiol (0.74 g.) were dissolved in water (40 ml.), and the solution was warmed on a water bath. To the solution was added all at once 7-aminocephalosporanic acid (1.36 g.) at 45° C. The mixture was stirred at 70°-73° C for an hour. After the reaction, the reaction mixture was cooled to 0°-5° C and adjusted to pH 5.0 with 10% hydrochloric acid. The precipitating crystals were collected by filtration to give 7-amino-3-(5-hydroxymethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.20 g.). m.p. 194°-199° C (dec.)

reactant | Sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | 5-hydroxymethyl-1,3,4-thiadiazole-2-thiol | 0.74 g | OCC1=NN=C(S1)S | C3H4N2OS2
reactant | 7-aminocephalosporanic acid | 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 7-amino-3-(5-hydroxymethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.20 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CO)C(=O)O)C1=O | C11H12N4O4S3
